US07468368B2
1-(2-Pyrimidinyl)-1,4-diazepane
An ice bath is used to cool a solution of 3 g of 2-chloropyrimidine in 20 ml of EtOH which is then admixed dropwise with a solution of 13 g of 1,4-diazepane in 50 ml of EtOH, left with stirring in the cold for 30 minutes and then at AT for 24 hours. It is concentrated under vacuum, the residue is taken up with 100 ml of AcOEt and 100 ml of saturated K2CO3 solution, the system is decanted, the organic phase is diluted by adding 100 ml of AcOEt, the organic phase is washed with saturated K2CO3 solution and dried over Na2SO4 and the solvent is evaporated under vacuum. This gives the expected product, which is used as it is.

reactant | 2-chloropyrimidine | 3 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 1,4-diazepane | 13 g | N1CCNCCC1 | C5H12N2
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-(2-Pyrimidinyl)-1,4-diazepane | N1=C(N=CC=C1)N1CCNCCC1 | C9H14N4
